US05616586
To a suspension of LiAlH4 (6.0 g, 0.157 mol) in THF (200 mL) was added dropwise a suspension of 2-carbamoylindoline (17.0 g, 0.105 mol) in THF (700 mL) over 50 min. The mixture was refluxed for 5 h and then LiAlH4 (6.0 g) was added further. The reflux was continued additionally for 6 h and the mixture was treated with 10% aqueous THF after being cooled with ice bath. Aqueous 1N NaOH was added and the mixture was extracted with a mixture of diethyl ether and THF. The organic layer was washed with water and brine, dried over magnesium sulfate, and concentrated to give 13.91 g of 2-aminomethylindoline (90%): 1H NMR (270 MHz, CDCl3) δ7.11 (dd, 1H, J=7, 1 Hz), 7.01 (dt, 1H, J=1, 7 Hz), 6.68 (dt, 1H, J=1, 7 Hz), 6.61 (d, 1H, J=7 Hz), 3.84 (m, 1H), 3.11 (dd, 1H, J=16, 9 Hz), 2.86 (dd, 1H, J=13, 5 Hz), 2.70 (m, 2H).

reactant | LiAlH4 | 0.157 mol, 6.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-carbamoylindoline | 0.105 mol, 17.0 g | C(N)(=O)C1NC2=CC=CC=C2C1 | C9H10N2O
reactant | LiAlH4 | 6.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 700 mL | C1CCOC1 | C4H8O
product | 2-aminomethylindoline | 13.91 g, 90% | NCC1NC2=CC=CC=C2C1 | C9H12N2
